Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
amoxicillin
 
Attending: ___
 
Chief Complaint:
Prostate cancer
 
Major Surgical or Invasive Procedure:
RALP

 
History of Present Illness:
___ with hx of high volume intermediate grade prostate cancer, 
now s/p RALP.
 
Past Medical History:
HEALTH MAINTENANCE
CHRONIC KIDNEY DISEASE
DEPRESSION
FIBROMATOSIS,
STROKE
HYPERLIPIDEMIA
HYPERTENSION
ANEMIA
 
Social History:
___
Family History:
No GU
 
Physical Exam:
WDWN, NAD, AVSS
Abdomen soft, non-distended, appropriately tender along incision 
sites
Incisions C/D/I
JP drain has been removed. 
Foley in place, secured to medial thigh. 
Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves

 
Pertinent Results:
___ 06:05AM BLOOD WBC-9.8 RBC-2.75* Hgb-8.0*# Hct-24.0* 
MCV-87 MCH-29.1 MCHC-33.3 RDW-14.5 RDWSD-45.5 Plt ___
___ 09:30AM BLOOD Glucose-101* UreaN-12 Creat-1.3* Na-138 
K-4.5 Cl-102 HCO3-28 AnGap-13
___ 06:05AM BLOOD Glucose-144* UreaN-15 Creat-1.4* Na-140 
K-4.2 Cl-105 HCO3-23 AnGap-16
 
Brief Hospital Course:
Mr. ___ was admitted to the Urology Service after undergoing 
robotic assisted laparoscopic prostatectomy. No concerning 
intra-operative events occurred; please see dictated operative 
note for full details.  The patient received ___ 
antibiotic prophylaxis.  At the end of the procedure the patient 
was extubated and transported to the PACU for further recovery 
before being transferred to the floor.  He was transferred from 
the PACU in stable condition. On POD0, pain was well controlled 
on PCA, hydrated with intravenous fluids for urine output 
>30cc/hour, provided with pneumoboots and incentive spirometry 
for prophylaxis, and he ambulated once. On POD1, the patient was 
restarted on home medications, basic metabolic panel and 
complete blood count were checked, pain control was transitioned 
from PCA to oral analgesics, diet was advanced to a clears/toast 
and crackers diet for breakfast and lunch.  Diet was advanced to 
regular after lunch and with further ambulation, the JP drain 
was removed.  Foley catheter care and leg bag teaching was 
provided by nursing. The remainder of the hospital course was 
unremarkable. The patient was discharged in stable condition, 
eating well, ambulating independently, and with pain control on 
oral analgesics. On exam, incision was clean, dry, and intact, 
with no evidence of hematoma collection or infection. The 
patient was given explicit instructions to follow-up in one week 
for post-operative evaluation and trial of voiding.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 2.5 mg PO DAILY 
2. LORazepam 1 mg PO ONCE MR1 for MRI 
3. Cyclobenzaprine 10 mg PO BID:PRN pain 
4. Fluticasone Propionate NASAL 1 SPRY NU DAILY prn asthma 
5. Rosuvastatin Calcium 20 mg PO QPM 
6. Naproxen 500 mg PO Q12H:PRN Pain - Moderate 
7. Aspirin 81 mg PO DAILY 
8. Cetirizine 10 mg PO DAILY 
9. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN pain, fever>100  
2.  Ciprofloxacin HCl 500 mg PO Q12H before and after clinic 
appointment for catheter removal  
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*2 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 capsule(s) by mouth every four (4) hours 
Disp #*30 Capsule Refills:*0 
5.  Aspirin 81 mg PO DAILY  
6.  Cetirizine 10 mg PO DAILY  
7.  Cyclobenzaprine 10 mg PO BID:PRN pain  
8.  Fluticasone Propionate NASAL 1 SPRY NU DAILY prn asthma  
9.  Hydrochlorothiazide 25 mg PO DAILY  
10.  Lisinopril 2.5 mg PO DAILY  
11.  LORazepam 1 mg PO ONCE MR1 for MRI Duration: 1 Dose  
12.  Naproxen 500 mg PO Q12H:PRN Pain - Moderate  
13.  Rosuvastatin Calcium 20 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Prostate cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___. ___ DISCHARGE INSTRUCTIONS FOR ROBOTIC-ASSISTED RADICAL 
PROSTATECTOMY

PRESCRIPTIONS
You may be given several prescriptions at discharge. OXYCODONE 
(or substitute), Colace and Ibuprofen.  Colace is a stool 
softener.   You are to alternate with both Ibuprofen and 
Acetaminophen for pain control. Use the narcotic if additional 
pain control is needed for moderate-intense pain. Acetaminophen 
is generic for Tylenol. Ibuprofen is generic for Advil, Motrin, 
etc. Docusate Sodium is generic for Colace.

***please keep a log of narcotics (pain pill) used over the week 
and return the log sheet at your follow up appointment. The 
NARCOTIC LOG SHEET will be provided to you. Remember to also 
bring a pad/diaper, and the narcotic prescription bottle.***

DIET
Constipation is a common side-effect of narcotic pain medication 
such as Vicodin. You may eat and drink what ever you wish, but 
should adjust your diet so that you avoid constipation, until 
your normal bowel function returns (this can take up to ___ 
days).  Taking Colace, increasing your fluid intake and prune 
juice may help with this.   If you do become constipated you may 
also take Milk of Magnesia which can be obtained as an over the 
counter medicine. Do not use an enema or suppository for the 
first three months after surgery, your rectal wall is very thin 
and you may injure yourself. Alcohol consumption in moderation 
is acceptable.

AMBULATION
After you are discharged from the hospital you can take long 
walks and go up and down stairs. However, you must avoid heavy 
lifting of >15lbs and vigorous exercise (calisthenics, golf, 
tennis) for a total of 3 weeks from the day of surgery. It takes 
at least 3 weeks for firm scar tissue to develop in both your 
wound and in the areas where you underwent surgery. If you 
engage in strenuous activity before that time you might disrupt 
the delicate connection between your bladder and urethra; this 
could lead to long-term problems with urinary control or a 
hernia in the incision. During the first 3 weeks you are at home 
do not sit upright in a firm chair for more than one hour. I 
prefer having you sit in a semi-recumbent position (in a 
reclining chair, on a sofa, or in a comfortable chair with a 
foot stool). This accomplishes two goals: 1) it elevates your 
legs, thereby improving drainage from the veins in your legs 
which will reduce the possibility of a clot formation (see 
below); and 2) it avoids placing weight on the area of your 
surgery in the perineum (the space between the scrotum and the 
rectum.) There are no other serious restrictions. Three weeks 
following surgery you may resume all the same activities you 
were enjoying before surgery.

PAIN CONTROL
One of the advantages of robotic surgery is a reduction in 
postoperative pain.  Nevertheless you will still experience some 
pain and discomfort for at least a week or two after surgery.  
This can be from the incisions as well as the catheter.  For 
most patients, over the counter medicine is all that is needed.  
This can be ibuprofen (600mg every 6 hours as needed with meals) 
or extra strength Tylenol ___ every 6 hours as needed, not 
to exceed 4000mg in 24 hours).  You will still get a 
prescription for stronger narcotic pain medicine on discharge, 
which you should take if the other medicine does not work.   
Most patients are pain-free by ___ weeks.  Bacitracin can be 
used on the tip of the penis and catheter where it enters the 
penis to decrease friction and discomfort with increased 
activity.

CATHETER REMOVAL 
Your catheter is usually removed ___ days from the day of 
surgery. One day prior to catheter removal, begin taking 
Ciprofloxacin and continue for 3 days.  On the day you are going 
to have your catheter removed drink a lot of fluids before you 
arrive at the office. On that day I am only concerned with 
whether or not you are urinating with a strong stream. The 
recovery of urinary control takes longer (you will receive 
additional information about urinary function at your one week 
follow-up visit).  Please bring a male urinary pad with you on 
that day. They can be purchased at ___, ___, or ___, 
among other places.

RETURN TO WORK
Most patients who do sedentary “office” activities can return to 
work gradually 2 weeks after surgery.  Your energy level and 
appetite will be low so ___ push it!  If you do strenuous work 
(e.g. lifting, on you feet all day) you will need to wait at 
least 3 weeks.  For those of you who travel a lot you should 
also wait at least 3 weeks.  You can begin to drive 3 weeks from 
the surgical date.

PROBLEMS  
Bleeding – It is not uncommon to have a bloody discharge around 
the catheter when you strain to have a bowel movement; do not 
become concerned; it will stop. Also, do not worry about some 
blood in the urine; it may arise from vigorous walking; the 
ingestion of aspirin or Motrin, or it may occur spontaneously. 
If this occurs force fluids. This will dilute out the blood so 
that it does not clot off the catheter and will encourage the 
cessation of bleeding. Blood in the urine usually has no 
significance and spontaneously resolves on its own, usually by 
the time the catheter is removed. Large amounts of bright red 
blood is unusual and you should call the doctor immediately.

Catheter – Leakage around the catheter is very common, 
especially when you’re walking around or having a bowel 
movement. If your catheter stops draining completely, lie down 
flat and drink a lot of water.  If after 1 hour there is no 
urine coming through the catheter it is possible that your 
catheter has become obstructed or dislodged. At this point call 
me.  Also, the passage of small blood clots after catheter 
removal is normal and of no concern unless it is persistent.
   
Wound – You can take a shower immediately after you return home. 
Please remove all outer incisional bandages when you arrive 
home. I like to leave the steri-strips in place for at least 10 
days after discharge because I believe that their presence 
encourages the development of a thinner scar. They will fall off 
spontaneously on their own, do not pull them off.   It is also 
normal to feel a firm ridge under your incisions.  Over the next 
___ months the incisions will fade and smooth out. Avoid hot 
tubs and baths for one week.

Clots – During the first ___ weeks after surgery, the major 
complication that occurs in 1-2% of men is a clot in a vein deep 
in your leg (deep venous thrombosis). This can produce pain in 
your calf or swelling in your ankle or leg. These clots may 
break loose and travel to the lung producing a life threatening 
condition known as pulmonary embolus. A pulmonary embolus can 
occur without any pain or swelling in your leg; the symptoms are 
chest pain (especially when you take a deep breath), shortness 
of breath, the sudden onset of weakness or fainting and/or 
coughing up blood. If you develop any of these symptoms or 
pain/swelling in your leg, call me or the covering physician. 
Also, you should immediately call your local physician or go to 
an emergency room.

Urinary Tract Infection – urinary tract infections are not 
uncommon following catheter drainage. They can be manifested in 
several ways. Before the catheter is removed the urine may 
become permanently cloudy or you may develop some purulent 
drainage around the catheter. This suggests that you have a 
urinary tract infection. Please call me and I will prescribe an 
antibiotic. You will be given an antibiotic to take starting the 
day prior to catheter removal, the day of, and one day after.  
It is common to have some burning and irritation around the 
penis after the catheter is removed for several days and this 
does not mean you have a urinary tract infection.  The burning 
should gradually subside. It may also help to keep the tip of 
your penis and catheter (where it enters the penis) clean at all 
times.  Use warm water and soap to remove dried blood or 
drainage that may accumulate there.  

Swelling – The scrotum and penis may become swollen. If so, lie 
down, lift the scrotum and penis up (to do this it may be 
necessary to unhook the catheter), and place ___ cloth towel 
between your legs to maintain the elevation of the scrotum. The 
swelling should decrease within ___ hours.

Bladder spasm –While the catheter is in place, it is not unusual 
to have a strong sudden desire to urinate with pain over the 
bladder area and simultaneous leakage of urine or blood around 
the catheter.  This is called a bladder spasm and commonly 
occurs at the time of bowel movement.  If it occurs you should 
lie down until the discomfort passes.  If these become frequent 
and bothersome, call my office and we can prescribe a medicine 
to help relax the bladder (ditropan, side effects include 
constipation, dry mouth, and possibly, altered mental status).  
Ibuprofen can also be used to help with the spasms.

Fatigue – Remember, you will not have your normal strength, 
appetite, and energy for several weeks after surgery so use 
common sense when you return to your pre-surgery activity.  
Activities that seemed effortless prior to surgery will bring on 
fatigue more quickly and you will need to rest some during the 
day.  Please do not be discouraged!

Bowels – It is not unusual for it to take ___ days for your 
first bowel movement after surgery. Use the Colace (stool 
softener) while you are using narcotic pain medication and until 
you are having regular bowel movements. You may stop this 
medication if you experience loose stool or diarrhea or you feel 
your bowel movements are back to normal. Please ambulate and 
stay well hydrated as well as eat foods that will help 
facilitate your bowels, i.e, fruits, vegetables, soups, salads, 
small frequent meals throughout the day while refraining from 
eating cheese, bananas, breads, pastas, rice, large heavy meals 
until your bowels are back to normal.
                                
COMMUNICATION WITH ___. ___,  NP
If you have any problems when you are at home, ___ and I can 
be reached during the day through ___ in our office 
at ___.   If you have an immediate concern at night or 
on a weekend, call the ___ 
operator at ___ and ask for the urology resident on 
call.   
                                                       
LONG-TERM EVALUATION 
Once we have had our first office visit to remove the catheter 
(or telephone conversation if you are not from ___, we will 
continue to meet (or talk), at three-four month intervals, for 
the first year following surgery. I would like your PSA 
available when we meet at each visit following surgery.  
Therefore please obtain this either through the ___ lab or 
through a lab near your home.  Thereafter you will need to have 
a PSA on a regular basis (every ___ months). I would like to 
receive these reports at regular intervals so that I can follow 
your progress.  

You may also be asked to participate in our long term 
assessments of quality of life.  This is extremely important and 
requires a small portion of your time but gives us a tremendous 
amount of feedback regarding your overall recovery, as well as 
your urinary and sexual function.  Please take the time to 
answers these questionnaires honestly and accurately.  With this 
data we can further refine our surgical technique and 
postoperative care to make the process even easier for future 
generations.  Please feel free to make suggestions along the way 
about how we can improve any aspects of your care.

It has been a pleasure to have you as my patient and I 
appreciate the trust and confidence you have shown in me and in 
___ by choosing us as your caretakers.  I hope you will 
consider me as your friend, as well as your doctor.  Good luck.

                                                       ___ 
___, M.D.

 
Followup Instructions:
___